* c:\users\lenovo\esim-workspace\or_with_nand\or_with_nand.cir

* u6  net-_u4-pad3_ net-_u5-pad3_ net-_u6-pad3_ d_nand
* u4  net-_u3-pad3_ net-_u3-pad3_ net-_u4-pad3_ d_nand
* u5  net-_u3-pad4_ net-_u3-pad4_ net-_u5-pad3_ d_nand
v1  in1 gnd pulse(0 5 0 5n 5n 20m 40m)
* u7  net-_u6-pad3_ out dac_bridge_1
* u3  in1 in2 net-_u3-pad3_ net-_u3-pad4_ adc_bridge_2
v2  in2 gnd pulse(0 5 0 5n 5n 40m 80m)
* u8  out plot_v1
* u1  in1 plot_v1
* u2  in2 plot_v1
a1 [net-_u4-pad3_ net-_u5-pad3_ ] net-_u6-pad3_ u6
a2 [net-_u3-pad3_ net-_u3-pad3_ ] net-_u4-pad3_ u4
a3 [net-_u3-pad4_ net-_u3-pad4_ ] net-_u5-pad3_ u5
a4 [net-_u6-pad3_ ] [out ] u7
a5 [in1 in2 ] [net-_u3-pad3_ net-_u3-pad4_ ] u3
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u6 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u4 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u5 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 160e-03 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in1)
plot v(in2)
.endc
.end
